US06670387B1
a) 3-methoxy-1-naphthol
To a stirring solution of 1,3-dihydroxynaphthalene (2.31 g, 14.4 mmol) in methanol (150 mL) at 0° C., hydrochloride gas was bubbed for 10 min. The resulting solution was continued stirring at room temperature for 24 hrs. A residue was obtained after evaporation of methanol and purified by silica gel column chromatography eluted with chloroform to provide the title compound as purple crystals (1.42 g, 57%). 1H NMR(300 MHz CDCl3) δ8.08(d, 1H), 7.70(d, 1H), 7.46(t, 1H), 7.34(t, 1H), 6.78 (s, 1H), 6.54 (s, 1H), 5.61(s, 1H), 3.90(s, 3H).

reactant | 1,3-dihydroxynaphthalene | 14.4 mmol, 2.31 g | OC1=CC(=CC2=CC=CC=C12)O | C10H8O2
reactant | hydrochloride | Cl | ClH
reactant | methanol | 150 mL | CO | CH4O
product | 3-methoxy-1-naphthol | 1.42 g, 57% | COC=1C=C(C2=CC=CC=C2C1)O | C11H10O2
